US06444685B1
4-((2S)-2-Hydroxy-3-{1-[4-(toluene-4-sulfonyl)-phenyl]-piperidin-4-ylamino}-propoxy)-1,3-dihydro-benzoimidazol-2-one
The title compound was prepared according to the procedure of Example 1 from 0.13 g (0.4 mmol) of Reference Example 25, 1-[4-(toluene-4-sulfonyl)-phenyl]-piperidin-4-one, and 0.13 g (0.6 mmol) of 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one, yielding 0.18 g of a white solid; m.p. 130-132° C.; MS (ES) m/z 537.0 (MH+); HRMS (FAB) Calcd. for C28H33N4O5S (MH+): 537.2166, Found: 537.2169.

reactant | 1-[4-(toluene-4-sulfonyl)-phenyl]-piperidin-4-one | C1(=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)=O)C | C18H19NO3S
reactant | 4-((2S)-3-Amino-2-hydroxy-propoxy)-1,3-dihydro-benzoimidazol-2-one | 0.6 mmol, 0.13 g | NC[C@@H](COC1=CC=CC=2NC(NC21)=O)O | C10H13N3O3
product | 4-((2S)-2-Hydroxy-3-{1-[4-(toluene-4-sulfonyl)-phenyl]-piperidin-4-ylamino}-propoxy)-1,3-dihydro-benzoimidazol-2-one | O[C@H](COC1=CC=CC=2NC(NC21)=O)CNC2CCN(CC2)C2=CC=C(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C28H32N4O5S
